US07989445B2
benzyl{2-[4-(bromomethyl)phenyl]ethyl}carbamate
A solution of benzyl {2-[4-(hydroxymethyl)phenyl]ethyl}carbamate (1 g), triphenylphosphine (0.97 g) and carbon tetrabromide (1.2 g) in acetonitrile (1 ml) was stirred overnight at room temperature. The reaction mixture was diluted with ethyl acetate, washed with water and saturated brine, dried over magnesium sulfate, and concentrated under reduced pressure. The residue was purified by column chromatography [developing solvent:ethyl acetate-hexane (1:5, volume ratio)] and crystallized from hexane to give the title compound (0.96 g) as a colorless powder.

reactant | benzyl {2-[4-(hydroxymethyl)phenyl]ethyl}carbamate | 1 g | OCC1=CC=C(C=C1)CCNC(OCC1=CC=CC=C1)=O | C17H19NO3
reactant | triphenylphosphine | 0.97 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrabromide | 1.2 g | C(Br)(Br)(Br)Br | CBr4
solvent | acetonitrile | 1 ml | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | benzyl{2-[4-(bromomethyl)phenyl]ethyl}carbamate | 0.96 g | C(C1=CC=CC=C1)OC(NCCC1=CC=C(C=C1)CBr)=O | C17H18BrNO2
